Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I took too many sleeping pills"
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Per Dr. ___ ___ ___ Initial Psychiatry Consultation 
and Dr. ___ Accept ___

"Ms. ___ is a ___ with history of depression who was 
brought in by EMS aftering taking 27 unisom pills and 9 Benadryl 
tabs in a suicide attempt in the setting of psychosocial 
stressors. Psychiatry is consulted to perform a safety 
evaluation.

Patient reports that she started to feel depressed this past
___, after cheating on her husband and deciding to stay 
with
the person (who is her current boyfriend). She states this ___
been ___ been a very stressful situation and she ___ been having
a lot of conflicting feelings about it as she had been with
husband for ___ years and married for 9. When she told her mom
about the situation in ___, her mother became very upset and
stopped speaking with her. They previously had been very close,
so this was also a contributor. Today, however, things came to a
head when she had a fight with her boyfriend. The boyfriend told
her that he he "couldn't deal" with her "ups and downs" and that
he was going to leave her. This fight was about 10 am today at
her house, and patient took the pills at 11 am. She reports that
her reason for taking the pills was wanting everything to "go
away," and to not feel guilty or sad anymore. She does endorse
that this was a suicide attempt and her intent was dying.
However, she started to feel physically sick and regretted
actions shortly thereafter, and tried to call a few friends who
did not answer approximately 30 minutes after overdose. She then
called her ex-boyfriend who called ___. Currently, patient does
feel she is "relieved" she is alive and denies feeling suicidal.

She also admits that over the last month she ___ been recklessly
taking unisom in an attempt to harm herself but ___ just "fallen
asleep" each time. This ___ occurred about ___ in the setting 
of
difficulties with new boyfriend. She also endorses one prior
suicide attempt ___ years ago where she overdosed on Tylenol ___ 
as
a grad student. It was not brought to medical attention. "

In the ___, exam notable for 1 beat bilateral clonus,  Bilateral
horizontal nystagmus,  Bilateral hand shaking on finger-nose
test. Patient did not have any behavioral issues. No physical or
chemical restraints were used.

On admission to the inpatient unit, patient confirmed the 
history
above, but added that she felt upset that doctors in the ___ said
that she could not remember the events around her suicide or how
many pills she had taken. Patient told this writer that she knew
she took 29 Unisom and 7 Benadryl pills. She described that as
soon as she took the pills, she "regretted everything and was
scared" which prompted her to call her husband (___), her
boyfriend (___), and 2 other friends. She describes that she 
is
"happy to be alive, but upset to be here", saying that she does
not think that it's necessary for her to be admitted. Patient
thinks that it would be better for her to go live with her
friends who can "keep an eye on me" and enroll in an outpatient
psychiatric program. 

Patient described that "I feel sad some days" and feels
significant guilt about her affair; her guilt is amplified by 
the
fact that her husband "wants to work things out" but she does 
not
love him and does not want to work on their marriage. She
described "up and down" emotions, but denied any manic episodes,
saying that "up" is when she's feeling normal, as opposed to
feeling sad. Ms. ___ describes terminal insomnia ___ times
per week, when she wakes up at ___ AM and cannot go back to
sleep. ___ been using Benadryl x1 pill at night, which ___ 
helped
with the insomnia. Reports still enjoying things: likes her job
and wants to return back to work as soon as possible, enjoys
running, spin, and works out ___ times/week. Describes good
energy during the week, saying that it's "easy to be on at 
work",
but does report that "weekends can be hard" if she does not have
any plans, saying that she feels lonely, which is worsened by 
the
fact that she just moved into a new apartment, and is in the
process of furnishing it. She denies any difficulties, with
concentration or appetite; denies psychomotor slowing.

Ms. ___ described that her suicide attempt was impulsive,
in the setting of having an argument with her boyfriend about 
her
"up and down" moods, with him saying that she should "consider
getting some help" with her moods. She described that "If I 
could
turn it all back, I would", saying that she does not have any
current thoughts of suicide, or self-injurious behavior. She
agreed to notify staff if she experiences any such thoughts.
denies thoughts of harming someone else.

Patient declined to sign a conditional voluntary form, saying
that she wants to talk to her husband, her boyfriend, and her
friends before signing anything.

This writer did not inquire and the patient did not give any
information about who could be contacted by the primary team.
 

COLLATERAL - husband ___ was on the unit visiting
Patient asked this writer to explain ___ and conditional
voluntary status to patient's husband in order to help her with
the decision. This writer spoke to husband privately, per
patient's request. ___ and CV were explained. Husband
expressed understanding. He then went on to say that him and
patient's friends think that it is "good for her" to spend the
night in the hospital, as it will make her realize the severity
of the situation. Husband said that their friends, ___ and ___
are willing to have the patient live with them after discharge.
Husband added that ___ is a psychiatry resident at ___ and ___
been advising them trough this process."
 
Past Medical History:
No known medical history
 
Social History:
SUBSTANCE USE HISTORY:
-Tobacco: Denies
-Alcohol: Socially, two glasses of wine per week, on ___
-Marijuana: denies
-Heroin: denies
-Opiates: denies
-Benzos: denies
-Cocaine: denies
-Amphetamines/speed: denies
-LSD/PCP: denies
-___: Denies

FORENSIC HISTORY:
-Arrests: Denies
-Convictions and jail terms: Denies
-Current status (pending charges, probation, parole): Denies

SOCIAL HISTORY:
-Born/Raised: ___
-Relationship status/Children: Separated from husband (___)
after she had an affair with another man in ___, prior to
this had been married for ___ years (together for ___ years). She 
is
currently together with her boyfriend (___). Husband is aware
of the affair and wants to "work it out" 
-Primary Supports:Family is all in ___ (mother, father,
younger sister and brother).
-___: Lives alone in an apartment in downtown ___.
-Education: Came to the ___ to ___ . ___ PhD pharmacology and toxicology. Did not research doses before
overdosing.
-Employment/Income: scientist at "___.", a ___ 
___,
working in "early research"
-Spiritual: Reports that she is Catholic, but lately ___ been
"feeling like a hypocrite" when going to church because of her
affair
-Military History: ___
Family History:
No known family history of psychiatric illness
 
Physical Exam:
VITAL SIGNS:
T:98.8 BP:116/83 HR:73 RR:18 SpO2 100 % on RA

EXAM:

General:
-HEENT: Normocephalic, atraumatic.  Moist mucous membranes,
oropharynx clear, supple neck.  No scleral icterus.
-Cardiovascular: Regular rate and rhythm, S1/S2 heard, no
murmurs/rubs/gallops. Distal pulses ___ throughout.
-Pulmonary: No increased work of breathing.  Lungs clear to
auscultation bilaterally.  No wheezes/rhonchi/rales.
-Abdominal: Non-distended, bowel sounds normoactive.  No
tenderness to palpation in all quadrants.  No guarding, no
rebound tenderness.
-Extremities: Warm and well-perfused.  No edema of the limbs.
-Skin: No rashes or lesions noted.

Neurological:
 -Cranial Nerves:
 ---I: Olfaction not tested.
 ---II: PERRL 3 to 2mm, both directly and consentually; brisk
bilaterally.  VFF to confrontation.
 ---III, IV, VI: EOMI without nystagmus
 ---V: Facial sensation intact to light touch in all
distributions
 ---VII: No facial droop, facial musculature symmetric and ___
strength in upper and lower distributions, bilaterally
 ---VIII: Hearing intact to finger rub bilaterally
 ---IX, X: Palate elevates symmetrically
 ---XI: ___ strength in trapezii and SCM bilaterally
 ---XII: Tongue protrudes in midline
 -Motor: Normal bulk and tone bilaterally. No abnormal 
movements,
 no tremor, no myoclonus. Strength ___ throughout.
 -Sensory: No deficits to fine touch throughout
 -DTRs: 2 and symmetrical throughout
 Coordination: Normal on finger to nose test, no intention 
tremor
noted
 -Gait: Good initiation.  Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty.  Romberg
absent.

 

Cognition: 
 -Wakefulness/alertness: Awake and alert
 -Attention: MOYB with 0 errors
 -Orientation: Oriented to person, time, place, situation
 -Executive function (go-no go, Luria, trails, FAS): Not tested
 -Memory: ___ registration, ___ recall after 5 ___
grossly intact
 -Fund of knowledge: Consistent with education; intact to last 3
presidents
 -Calculations: 7 quarters = "$1.75"
 -Abstraction: Interprets "people in glass houses shouldn't 
throw
stones" as "don't judge other people"
 -Visuospatial: Not assessed
 -Language: Native ___ speaker, no paraphasic errors,
appropriate to conversation

Mental Status:
 -Appearance: dark-skin woman, appearing younger than stated 
age,
dark hair, wearing hospital gown, in no apparent distress,
appropriate grooming and hygiene
 -Behavior: Sitting in chair, no psychomotor agitation or
retardation, with poor eye contact, looking mostly at the floor
while talking
 -Attitude: Engaged in conversation, but guarded and slightly
hostile about being "held against my will"
 -Mood: "upset about being here"
 -Affect: Mood-congruent, full range, appropriate to situation;
laughed when asked cognitive questions
 -Speech: Normal rate, volume, and tone
 -Thought process: Linear, coherent, goal-oriented, no loose
associations
 -Thought Content:
 ---Safety: Denies SI/HI
 ---Delusions: No evidence of paranoia, thought
insertion/withdrawal, or ideas of reference
 ---Obsessions/Compulsions: No evidence based on current
encounter
 ---Hallucinations: Denies AVH, not appearing to be attending to
internal stimuli
 -Insight: Fair
 -Judgment: Limited

Discharge Exam
T 98.1 POBP 105 / 66HR 79RR 16O2 Sat 99
Mental Status:
 -Appearance: light brown-skinned woman, appearing younger than 
stated age, dark hair, wearing casual athletic clothes, in no 
apparent distress, appropriate grooming and hygiene
 -Behavior: Sitting in chair, no psychomotor agitation or 
retardation, appropriate eye contact 
 -Attitude: Engaged and cooperative in conversation 
 -Mood: "ready to move on"
 -Affect: euthymic, full and appropriate range
 -Speech: Normal rate, volume, and tone
 -Thought process: Linear, coherent, goal-oriented, no loose 
associations
 -Thought Content:
 ---Safety: Denies SI/HI
 ---Delusions: No evidence of paranoia, thought
insertion/withdrawal, or ideas of reference
 ---Obsessions/Compulsions: No evidence based on current
encounter
 ---Hallucinations: Denies AVH, not appearing to be attending to
internal stimuli
 -Insight: Fair
 -Judgment: fair
 
Pertinent Results:
___ 01:17PM BLOOD WBC-8.5 RBC-4.04 Hgb-11.5 Hct-35.8 MCV-89 
MCH-28.5 MCHC-32.1 RDW-13.1 RDWSD-42.6 Plt ___
___ 01:17PM BLOOD Neuts-67.2 ___ Monos-7.9 Eos-0.7* 
Baso-0.6 Im ___ AbsNeut-5.68 AbsLymp-1.96 AbsMono-0.67 
AbsEos-0.06 AbsBaso-0.05
___ 01:17PM BLOOD Glucose-70 UreaN-11 Creat-0.7 Na-140 
K-3.2* Cl-104 HCO3-21* AnGap-15
___ 06:45PM BLOOD Glucose-80 UreaN-7 Creat-0.7 Na-143 K-4.0 
Cl-111* HCO3-19* AnGap-13
___ 03:45AM BLOOD Glucose-89 UreaN-15 Creat-0.7 Na-141 
K-4.2 Cl-108 HCO3-20* AnGap-13
___ 01:17PM BLOOD ALT-9 AST-14 AlkPhos-47 TotBili-0.4
___ 01:17PM BLOOD Albumin-4.0 Calcium-8.7 Phos-2.7 Mg-2.1
___ 03:45AM BLOOD Calcium-8.7 Phos-3.9 Mg-2.1
___ 03:45AM BLOOD TSH-2.9
___ 01:17PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 07:48PM BLOOD K-3.8
___ 01:25PM BLOOD Lactate-2.___. LEGAL & SAFETY: 
Ms. ___ refused to sign a conditional voluntary agreement 
and was admitted on a ___, which was due to expire on 
___.  She was discharged on ___. PSYCHIATRIC:
#) ___ consistently, clearly but politely declined any 
medications offered. She was offered option of antidepressant to 
address issue of anxiety. Hydroxyzine 25mg PO q6 hrs was 
offered. However, she didn't use it during the hospital stay.
 
3. SUBSTANCE USE DISORDERS:
#) Ms. ___ does not have any substance use disorders, and 
therefore did not require any counseling or treatment in this 
regard.
 
4. MEDICAL
Ms. ___ was medically cleared in the ___ after toxicology 
consultation, administration of IV fluids and serial labs and 
EKGs.  Additionally, Ms. ___ no chronic medical issues 
requiring attention.
#)
 
5. PSYCHOSOCIAL
#) GROUPS/MILIEU: 
Ms. ___  was encouraged to participate in the various 
groups and milieu therapy opportunities offered by the unit.  
The occupational therapy and social work groups that focus on 
teaching patients various coping skills. During her brief 
admission Ms. ___ declined to attend groups, but was 
appropriate with staff and other patients, spending much of her 
time with visitors or her roommate. Per nursing reports,  there 
were no behavioral problems, pt was compliant with assessments 
and milieu.

#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT:
Ms. ___ is not close with her family at this time and 
therefore did not give permission for the team to contact her 
family. However she ___ close social supports of friends who 
attended a discharge meeting and plan to help her in the 
transition out of the hospital.

On the discharged day, Ms. ___ reported that she feels well:"I 
feel good". She clearly denied intend to hurt herself:"I will 
never do it again".
She reported that she is interested in individual therapy.

Family meeting was held on ___: pt's friends ___ and 
___ and husband ___ on the phone) were present. Per 
friends/husband: pt had stressful 6 months ("rough six months"). 
Per ___ and ___, pt "hit the low point". Suicide attempt was 
impulsive to "ease pain".

We discussed impression and tx recommendations. Friends and 
husband were also provided with info about resources (NAMI, BEST 
and contacting pt's providers).
___ and ___ feel comfortable that pt stays with them for 
the first several days after the discharge.
Considering all of the above, it was felt that there are no 
legal grounds to continue holding patient. She was discharged on 
___.

6. RISK ASSESSMENT
On presentation, Ms. ___ was evaluated and felt to be at 
an increased risk of harm to herself.  Ms. ___ static 
risk factors noted at that time include history of suicide 
attempts, recent suicide attempt, significant relationship 
difficulties, and recent loss.  The modifiable risk factors 
identified were as such: impulsivity, no established outpatient 
providers, social withdrawal, insomnia, psychic pain/turmoil, 
acutely stressful events, limited coping skills.  These 
modifiable risk factors were addressed with acute stabilization 
in a safe environment on a locked inpatient unit, 
psychopharmacologic considerations, psychotherapeutic 
interventions (OT groups, SW groups, individual therapy meetings 
with psychiatrists), and presence on a social milieu 
environment.  Ms. ___ is being discharged with many 
protective factors, including female gender, age, employment, 
help-seeking behavior, future-oriented viewpoint, lack of 
suicidal ideation, spirituality, no chronic substance use, no 
access to lethal weapons, reality-testing ability, and good 
social supports.  Overall, based on the totality of our 
assessment at this time, Ms. ___ is not at an acutely 
elevated risk of harm to self nor danger to others.
 
Our prognosis of this patient is fair/good.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. LORazepam 0.5 mg PO DAILY:PRN Anxiety 

 
Discharge Medications:
None
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Anxiety Disorder NOS

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___